US06562811B1
To a cooled (0° C.), stirred solution of tert-butyl 3-{2-amino-6-[2-(benzyloxy)phenyl]-3-carbamoyl-4-pyridinyl}-1-piperidinecarboxylate (0.400 g, 0.800 mmol), which was obtained in the step (1) of Example 7-1, in THF (10 mL) were added triethylamine (0.50 mL, 3.58 mmol) followed by triphosgene (0.354 g, 1.19 mmol). The reaction mixture was stirred at room temperature for 12 hrs. The reaction was quenched with water and extracted with ethyl acetate. The organic phase was washed with brine, dried over Na2SO4, filtered, and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1-1/1) and recrystallized from ethanol to give tert-butyl 3-{7-[2-(benzyloxy)phenyl]-2,4-dioxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidin-5-yl}-1-piperidinecarboxylate as a white solid. (0.406 g, yield; 97%).

reactant | tert-butyl 3-{2-amino-6-[2-(benzyloxy)phenyl]-3-carbamoyl-4-pyridinyl}-1-piperidinecarboxylate | 0.800 mmol, 0.400 g | NC1=NC(=CC(=C1C(N)=O)C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C29H34N4O4
reactant | triethylamine | 3.58 mmol, 0.50 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 1.19 mmol, 0.354 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-{7-[2-(benzyloxy)phenyl]-2,4-dioxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidin-5-yl}-1-piperidinecarboxylate | yield; 97% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1C=C(C2=C(NC(NC2=O)=O)N1)C1CN(CCC1)C(=O)OC(C)(C)C | C30H32N4O5
